US07074798B2
a) 2,2-Dimethylpropionic acid [7-benzyl-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl]methyl ester
7-Benzylxanthine (8.66 g) was dissolved in N,N-dimethylformamide (300 ml); sodium hydride (1.57 g) and chloromethyl pivalate (7.7 ml) were added to the solution; and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate, and washed with water and 1N hydrochloric acid. The organic layer was dried over anhydrous magnesium sulfate and filtered. Then, the solvent was removed by distillation. The residue was purified by silica gel column chromatography to give 2.66 g of the title compound from the elution fraction of hexane-ethyl acetate 1:1.

reactant | 7-Benzylxanthine | 8.66 g | C(C1=CC=CC=C1)N1C=NC=2NC(NC(C12)=O)=O | C12H10N4O2
reactant | sodium hydride | 1.57 g | [H-].[Na+]
reactant | chloromethyl pivalate | 7.7 ml | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2-Dimethylpropionic acid [7-benzyl-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl]methyl ester | 2.66 g | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)COC(C(C)(C)C)=O | C18H20N4O4
